US06531491B1
6-(3-methoxy-4-methoxymethoxy-phenyl)-1H-indazole-3-carbaldehyde (441 mg, 1.41 mmol, 1.0 equiv) was taken up as a suspension in dichloromethane (15 mL) and was cooled to 0° C. This mixture was treated with mesitylene sulfonyl chloride (324 mg, 1.48 mmol, 1.05 equiv) and dimethylamino pyridine (DMAP) (181 mg, 1.48 mmol, 1.05 equiv). The mixture was allowed to stir for 1 h at 0° C. and was quenched with the addition of water. The mixture was partitioned between water and a 1:1 ethyl acetate/hexane organic layer. The organic material was dried over sodium sulfate, decanted and concentrated under reduced pressure to give crude material which was purified by silica gel chromatography (50 mL silica, 3:7 ethyl acetate/hexane) to give 6-(3-methoxy-4-methoxymethoxy-phenyl)-1-(2,4,6-trimethyl-benzenesulfonyl)-1H-indazole-3-carbaldehyde (374 mg, 54%): Rf sm 0.17, p 0.53 (ethyl acetate-hexane 4:6); 1H NMR (CDCl3) δ 10.20 (s, 1H), 8.41 (s, 1H), 8.37 (d, 1H, J=8.5 Hz), 7.73 (dd, 1H, J=1.4, 8.4 Hz), 7.3 (m, 3H), 7.08 (s, 2H), 5.36 (s, 2H), 4.08 (s, 3H), 3.71 (s, 3H), 2.74 (s, 6H), 2.40 (s, 3H).

reactant | 6-(3-methoxy-4-methoxymethoxy-phenyl)-1H-indazole-3-carbaldehyde | 1.41 mmol, 441 mg, 1.0 equiv | COC=1C=C(C=CC1OCOC)C1=CC=C2C(=NNC2=C1)C=O | C17H16N2O4
reactant | mesitylene sulfonyl chloride | 1.48 mmol, 324 mg, 1.05 equiv | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
reactant | dimethylamino pyridine | 1.48 mmol, 181 mg, 1.05 equiv | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 6-(3-methoxy-4-methoxymethoxy-phenyl)-1-(2,4,6-trimethyl-benzenesulfonyl)-1H-indazole-3-carbaldehyde | 374 mg, 54% | COC=1C=C(C=CC1OCOC)C1=CC=C2C(=NN(C2=C1)S(=O)(=O)C1=C(C=C(C=C1C)C)C)C=O | C26H26N2O6S
